US07495103B2
A suspension of the crude 7-nitro-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (4.5 g, 16.2 mol) and 10% Pd—C (0.45 g) in MeOH (40 mL) was stirred under H2 (1 atm) at room temperature overnight. After filtration, the filtrate was concentrated and the residue was purified by column chromatography (petroleum ether-EtOAc, 5:1) to give tert-butyl 7-amino-3,4-dihydroquinoline-1(2H)-carboxylate (DC-1) as a brown solid (1.2 g, 22% over 2 steps). 1H NMR (CDCl3) δ 7.15 (d, J=2Hz, 1H), 6.84 (d, J=8 Hz, 1H), 6.36-6.38 (m, 1H), 3.65-3.68 (m, 2H), 3.10 (br s, 2H), 2.66 (t, J=6.4 Hz, 2H), 1.84-1.90 (m, 2H), 1.52 (s, 9H); ESI-MS 496.8 m/z (2M+H+).

reactant | 7-nitro-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 16.2 mol, 4.5 g | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)[N+](=O)[O-] | C14H18N2O4
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd—C | 0.45 g | [Pd] | Pd
product | tert-butyl 7-amino-3,4-dihydroquinoline-1(2H)-carboxylate | NC1=CC=C2CCCN(C2=C1)C(=O)OC(C)(C)C | C14H20N2O2
